US09029545B2
N-{2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}methanesulfonamide
To a stirred solution of 2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine (Description 17) (277 mg, 0.793 mmol) in THF (2.5 mL) at RT, was added sodium tert-butoxide (220 mg, 2.289 mmol). The reaction mixture was stirred at RT for 15 min, followed by the addition of methane sulfonyl chloride (0.14 mL, 1.797 mmol). The reaction mixture was stirred at 1 h at RT, followed by the addition of DMF (2.5 mL), another portion of sodium tert-butoxide (203 mg, 2.112 mmol) and methane sulfonyl chloride (0.14 mL, 1.797 mmol). The reaction mixture was stirred for another 1 h at RT before the addition of water (20 mL) and ethyl acetate (20 mL). The aqueous layer was separated and extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with water (15 mL), dried (phase separating column) and concentrated to give a residue. Purification on silica (twice), eluting with a gradient of 0-75% ethyl acetate in cyclohexane afforded the title compound (109 mg) which was of sufficient purity for subsequent steps. In addition, some impure fractions were isolated and these were combined and further purified by MDAP (acidic conditions), to give an analytically pure sample of the title compound (9 mg). LCMS (A) m/z: 427/429 [M+1]+, Rt 1.33 min (acidic).

reactant | 2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 0.793 mmol, 277 mg | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C15H13BrN2OS
reactant | sodium tert-butoxide | 2.289 mmol, 220 mg | CC(C)([O-])C.[Na+]
reactant | methane sulfonyl chloride | 1.797 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
reactant | sodium tert-butoxide | 2.112 mmol, 203 mg | CC(C)([O-])C.[Na+]
reactant | methane sulfonyl chloride | 1.797 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | N-{2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}methanesulfonamide | 109 mg | BrC1=C(C=2C(=NC(=CC2NS(=O)(=O)C)C)S1)C1=CC(=CC=C1)OC | C16H15BrN2O3S2
